US09084794B2
b) tert-Butyl 4-(((1-(((tert-butyldimethylsilyl)oxy)methyl)cyclopropyl)amino)methyl)-4-hydroxypiperidine-1-carboxylate
To a solution of 1-(((tert-butyldimethylsilyl)oxy)methyl)cyclopropanamine (10.09 mmol) in absolute ethanol (40 mL) was added tert-butyl 1-oxa-6-azaspiro[2.5]octane-6-carboxylate (9.61 mmol) in one portion. The reaction was heated at reflux for 20 h then cooled and evaporated onto silica. The solid was purified by flash chromatography (30-80% ethyl acetate in hexanes) to afford the title product (719 mg, 16% yield) as a colorless oil. MS(ES)+ m/e 415.5 [M+H]+.

reactant | 1-(((tert-butyldimethylsilyl)oxy)methyl)cyclopropanamine | 10.09 mmol | [Si](C)(C)(C(C)(C)C)OCC1(CC1)N | C10H23NOSi
reactant | tert-butyl 1-oxa-6-azaspiro[2.5]octane-6-carboxylate | 9.61 mmol | O1CC12CCN(CC2)C(=O)OC(C)(C)C | C11H19NO3
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | tert-Butyl 4-(((1-(((tert-butyldimethylsilyl)oxy)methyl)cyclopropyl)amino)methyl)-4-hydroxypiperidine-1-carboxylate | 719 mg, 16% yield | [Si](C)(C)(C(C)(C)C)OCC1(CC1)NCC1(CCN(CC1)C(=O)OC(C)(C)C)O | C21H42N2O4Si
